US07973185B2
To a mixture of 5.32 g (40 mmol) of aluminium chloride and 1.52 g (20 mmol) of thiourea 1.53 g (10 mmol) of 1-methoxy-4-nitrobenzene is added. The reaction mixture is heated to 40° C. and maintained at this temperature of 2 hours, then cooled to room temperature and 20 ml of 5 wt % hydrochloric acid is added. The precipitated product is filtered, washed and dried giving 1.13 g (81.2%) of 1-hydroxy-4-nitrobenzene.

reactant | aluminium chloride | 40 mmol, 5.32 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | thiourea | 20 mmol, 1.52 g | NC(=S)N | CH4N2S
reactant | 1-methoxy-4-nitrobenzene | COC1=CC=C(C=C1)[N+](=O)[O-] | C7H7NO3
reactant | hydrochloric acid | Cl | ClH
product | 1-hydroxy-4-nitrobenzene | 1.13 g, 81.2% | OC1=CC=C(C=C1)[N+](=O)[O-] | C6H5NO3
